US05840732
ii) Synthesis of 5-butylidene-3-[4-(2-methylimidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione hydrochloride
To a solution of 1.23 g (3.29 mmol) of 5-butylidene-3-[4-(2-methylimidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione in 30 ml of methanol, 0.33 ml of concentrated hydrochloric acid was added. After the solvent was distilled off, the residue was washed with diethyl ether to yield 1.41 g (quant., yellow oily substance) of the desired product.

reactant | 5-butylidene-3-[4-(2-methylimidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione | 3.29 mmol, 1.23 g | C(CCC)=C1C(N(C(S1)=O)CCCCOC=1C=2N(C=CC1)C=C(N2)C)=O | C19H23N3O3S
reactant | hydrochloric acid | 0.33 ml | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | 5-butylidene-3-[4-(2-methylimidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione hydrochloride | Cl.C(CCC)=C1C(N(C(S1)=O)CCCCOC=1C=2N(C=CC1)C=C(N2)C)=O | InChI=1S/C19H23N3O3S.ClH/c1-3-4-9-16-18(23)22(19(24)26-16)11-5-6-12-25-15-8-7-10-21-13-14(2)20-17(15)21;/h7-10,13H,3-6,11-12H2,1-2H3;1H
